US04873236
5,11-Dihydro-11-[[[2-[2-[(morpholin-4-yl)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[2-[(morpholin-4-yl)methyl]-piperidin-l-yl]ethanamine in a yield of 30% of theory. Colourless crystals, m.p. 167° C. (acetonitrile using fuller's earth).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[(morpholin-4-yl)methyl]-piperidin-l-yl]ethanamine | N1(CCOCC1)CC1N(CCCC1)CCN | C12H25N3O
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,11-Dihydro-11-[[[2-[2-[(morpholin-4-yl)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 30% | N1(CCOCC1)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C25H32N6O3
